US03953442
c. 5-chloro-3-(2-oxopropyl)indole
A mixture of 104g of 5-chloro-3-(2-nitropropen-1-yl)indole, 115g of powdered iron and 6g of ferric chloride dissolved in 1250 ml of acetone is brought to reflux. Heating ceases as soon as reflux commences and a solution of 265 ml of acetic acid in 800 ml of water is added over 30 minutes. The reaction mixture is again brought to reflux and maintained thereat for 4 hours; 25.6g of sodium bisulphite are then added, the mixture cooled to 20°C and filtered. The residue is washed with acetone. The combined filtrate and washings are concentrated after filtering and redissolved in 105 ml of hydrochloric acid and 520 ml of water, extracted with ethyl acetate, washed and dried.

reactant | 5-chloro-3-(2-nitropropen-1-yl)indole | ClC=1C=C2C(=CNC2=CC1)C=C(C)[N+](=O)[O-] | C11H9ClN2O2
reactant | acetic acid | 265 ml | C(C)(=O)O | C2H4O2
reactant | sodium bisulphite | 25.6g | S([O-])(O)=O.[Na+]
solvent | acetone | 1250 ml | CC(=O)C | C3H6O
solvent | water | 800 ml | O | H2O
catalyst | iron | [Fe] | Fe
product | 5-chloro-3-(2-oxopropyl)indole | ClC=1C=C2C(=CNC2=CC1)CC(C)=O | C11H10ClNO
